US09376418B2
Methanol (1.0 mL) and aqueous sodium hydroxide (4 M in H2O, 0.65 mL, 2.6 mmol) was added to a flask containing ethyl 5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridine-3-carboxylate (210 mg, 0.052 mmol) and the reaction was heated to 60° C. for 1 hour. The mixture was allowed to cool to room temperature, acidified (2 N HCl) and the solid was isolated by filtration to yield 5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridine-3-carboxylic acid. MS ESI calc'd for C18H14F3N4O2 [M+H]+ 375. found 375.

reactant | sodium hydroxide | 2.6 mmol, 4 M, 0.65 mL | [OH-].[Na+]
reactant | ethyl 5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridine-3-carboxylate | 0.052 mmol, 210 mg | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C=1C=C(C=NC1)C(=O)OCC | C20H17F3N4O2
reactant | HCl | 2 N | Cl | ClH
solvent | Methanol | 1.0 mL | CO | CH4O
product | 5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridine-3-carboxylic acid | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C=1C=C(C=NC1)C(=O)O | C18H13F3N4O2
